US07495103B2
A mixture of 4,4-dimethyl-7-nitro-3,4-dihydro-2H-quinoline-1carboxylic acid tert-butyl ester (8.3 g, 0.03 mol) and Pd—C (0.5 g) in methanol (100 mL) was stirred under H2 (1 atm) at room temperature overnight. The catalyst was filtered off and the filtrate was concentrated. The residue was washed with petroleum ether to give tert-butyl 7-amino-3,4-dihydro-4,4-dimethylquinoline-1(2H)-carboxylate (DC-3) (7.2 g, 95%). 1H NMR (CDCl3) δ 7.11-7.04 (m, 2H), 6.45-6.38 (m, 1H), 3.71-3.67 (m, 2H), 3.50-3.28 (m, 2H), 1.71-1.67 (m, 2H), 1.51 (s, 9H), 1.24 (s, 6 H).

reactant | 4,4-dimethyl-7-nitro-3,4-dihydro-2H-quinoline-1carboxylic acid tert-butyl ester | 0.03 mol, 8.3 g | C(C)(C)(C)OC(=O)N1CCC(C2=CC=C(C=C12)[N+](=O)[O-])(C)C | C16H22N2O4
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd—C | 0.5 g | [Pd] | Pd
product | tert-butyl 7-amino-3,4-dihydro-4,4-dimethylquinoline-1(2H)-carboxylate | 7.2 g, 95% | NC1=CC=C2C(CCN(C2=C1)C(=O)OC(C)(C)C)(C)C | C16H24N2O2
